US06680326B2
a) Preparation of 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid phenylamide
In a similar manner to Example 1a, 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid phenylamide was obtained starting from 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester and aniline. The desired product was obtained as a brownish orange powder. ESI−MS: m/z 267 (MH+); 1H-NMR (DMSO-d6): δ6.93 (1H, t, J=7.3 Hz), 7.26 (2H, t-like, 7.3 Hz), 7.33 (1H, dd, J=1.4 Hz, 4.6 Hz), 7.59 (2H, d, J=7.3 Hz), 8.51 (1H, d, J=1.4 Hz), 8.72 (1H, d, J=4.6 Hz), 10.78 (1H, brs).

reactant | 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C=2C=CN=CC2C1=O)=O | C11H9NO4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)C1C(C=2C=CN=CC2C1=O)=O | C15H10N2O3
